US09029546B2
N1-(6-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyridin-2-yl)-2-methylpropane-1,2-diamine (Compound 1)
A mixture of 3-(6-bromo-2-pyridyl)-1H-pyrazolo[5,4-b]pyridine (50 mg,), potassium carbonate (150.6 mg, 1.09 mmol) and 2-methylpropane-1,2-diamine (40.1 mg, 0.45 mmol) in DMF (0.7 mL) was heated at 150° C. for 24 hours. The mixture was allowed to cool, filtered and the resultant filtrate purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 A column, gradient 10%-95% B (solvent A: 0.05% TFA in water, solvent B: CH3CN) over 16 minutes at 25 mL/min] The fractions were collected, passed through a sodium bicarbonate cartridge and freeze-dried to give the title compound as a white solid (33.5 mg, 36% Yield).

reactant | 3-(6-bromo-2-pyridyl)-1H-pyrazolo[5,4-b]pyridine | 50 mg | BrC1=CC=CC(=N1)C1=NNC2=NC=CC=C21 | C11H7BrN4
reactant | potassium carbonate | 1.09 mmol, 150.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylpropane-1,2-diamine | 0.45 mmol, 40.1 mg | CC(CN)(C)N | C4H12N2
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | N1-(6-(1H-pyrazolo[3,4-b]pyridin-3-yl)pyridin-2-yl)-2-methylpropane-1,2-diamine | 33.5 mg, 36% Yield | N1N=C(C=2C1=NC=CC2)C2=CC=CC(=N2)NCC(C)(N)C | C15H18N6
